US08003785B2
A mixture of 0.5 g (0.0017 mole) of 2-chloro-7,7-difluoro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-292b) and 0.35 g (0.002 mole) of 4-amino-3-methoxy-benzoic acid in 20 mL of ethanol-water-hydrochloric acid (20:80:1) was refluxed for 18 hours, then cooled and partially concentrated under reduced pressure. The resulting solid was collected by filtration, washed with 0.5M hydrochloric acid and water and dried to give 0.40 g of 4-(7,7-difluoro-9-isopropyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-292).

reactant | 2-chloro-7,7-difluoro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0017 mole, 0.5 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C(C)C)N1 | C11H13ClF2N4O
reactant | 4-amino-3-methoxy-benzoic acid | 0.002 mole, 0.35 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
solvent | ethanol water hydrochloric acid | 20 mL | C(C)O.O.Cl
product | 4-(7,7-difluoro-9-isopropyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.40 g | FC1(C(N(C2=C(N(C1)C(C)C)N=C(N=C2)NC2=C(C=C(C(=O)O)C=C2)OC)C)=O)F | C19H21F2N5O4
